US07750185B2
2.00 g (5.34 mmol) of 2,2-bis(4-nitrobenzyl)malonic acid and 2.07 g (5.35 mmol) 5-cholesten-3β-ol and 65 mg (0.53 mmol) 4-dimethylaminopyridine in 40 ml of dichloromethane were cooled to 0° C. and 1.16 g (5.62 mmol) N,N′-dicyclohexylcarbodiimde were added. The mixture was subsequently allowed to react for 2 hours at 0° C. and 19 hours at 25° C., filtered and concentrated by rotary evaporation. Chromatography of the residue on 50 g silica gel using toluene as eluant and recrystallisation form ethyl acetate yielded 3.09 g (83%) Cholest-5-en-3-yl 2-(4-nitrobenzyl)-3-(4-nitrophenyl)propanoate as a white powder.

reactant | 2,2-bis(4-nitrobenzyl)malonic acid | 5.34 mmol, 2.00 g | [N+](=O)([O-])C1=CC=C(CC(C(=O)O)(C(=O)O)CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C17H14N2O8
reactant | 5-cholesten-3β-ol | 5.35 mmol, 2.07 g | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](CC[C@]4(C)[C@H]3CC[C@]12C)O | C27H46O
catalyst | 4-dimethylaminopyridine | 0.53 mmol, 65 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | Cholest-5-en-3-yl 2-(4-nitrobenzyl)-3-(4-nitrophenyl)propanoate | 3.09 g, 83% | [N+](=O)([O-])C1=CC=C(CC(C(=O)OC2CC3=CC[C@H]4[C@@H]5CC[C@H]([C@@H](CCCC(C)C)C)[C@]5(CC[C@@H]4[C@]3(CC2)C)C)CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C43H58N2O6
